2186-05-26 09:33:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 4**] Progress Note
   24 Hour Events:
 INVASIVE VENTILATION - START [**2186-5-26**] 03:00 AM
 ARTERIAL LINE - START [**2186-5-26**] 05:19 AM
 NASAL SWAB - At [**2186-5-26**] 06:40 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-5-26**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 145 (129 - 145) bpm
   BP: 103/63(77) {93/61(73) - 108/74(86)} mmHg
   RR: 18 (7 - 21) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             79 mL
   PO:
             TF:
   IVF:
   79 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    250 mL
   Urine:
   250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -171 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.59/32/87.[**Numeric Identifier 7**]/26/8
   Ve: 9 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Pt intubated and sedated. Easily arousable and agitated.
   CHEST: cta b/l
   CV: RRR, nl S1 and S2. no murmers.
   ABD: soft, non-tender, positive bowel sounds.
   EXT: warm and well perfused.
   NEURO: pt intubated and sedated. Left pupil > right pupil. Pupils
   reactive.
   Labs / Radiology
   279 K/uL
   13.2 g/dL
   117 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.1 mEq/L
   9 mg/dL
   102 mEq/L
   142 mEq/L
   36.5 %
   4.6 K/uL
        [image002.jpg]
                             [**2186-5-26**]  03:35 AM
                             [**2186-5-26**]  05:15 AM
   WBC
   4.6
   Hct
   36.5
   Plt
   279
   Cr
   0.4
   TCO2
   32
   Glucose
   117
   Other labs: PT / PTT / INR:13.2/25.6/1.1, ALT / AST:89/85, Alk Phos / T
   Bili:312/0.7, Differential-Neuts:87.0 %, Band:3.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:0.0 %, Albumin:3.3 g/dL, LDH:809 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   A/P:  Pt is a 40 yo F with PMHx sig. for metastatic breast cancer to
   liver, lungs, and brain. Admitted to [**Hospital Unit Name 4**] following PEA arrest.
   .
   1.  PEA arrest:  Pt in PEA arrest last night (see HPI for full details)
   requiring less than 2 minutes of chest compressions.  [**Month (only) 8**] have been
   secondary to hypoxia from seizure. No pressors and blood pressure
   stable. Continue tele.
   .
   2.  Seizure:  Pt has known seizure disorder from brain metastases.  Has
   been on dilantin and keppra.  CT head from OSH actually shows
   improvement in vasogenic edema and mass-effect.  Concern for new
   metastases, worsening vasogenic edema, or bleed. Mental status
   improving today.
   - CT head without contrast today
   - cont. dilantin and keppra
   - increase dilantin dose as sub-therapeutic
   - increased dexamethasone to 8 mg [**Hospital1 **]
   - d/w Dr. [**Last Name (STitle) 2506**], neurooncologist
   .
   3.  Respiratory failure: Differential diagnosis includes pulmonary
   edema, infection (pcp), aspiration secondary to seizure, constrictive
   pericardial physiology vs. worsening PE load. CXR demonstrates
   pulmonary edema.  Pt was admitted for dyspnea, felt to be secondary to
   recurrent malignant pleural effusions.  Pt underwent thoracentesis and
   diuresis via Lasix.  ECHO shows small pericardial effusion; no s/sxs of
   tamponade, however could have constrictive physiology. Attempt
   aggressive diuresis, if does not improve consider cardiology
   involvement for possible constrictive physiologyof pericardium and
   stripping.
   - Aggressive diuresis with IV Lasix (goal  -2 L)
   - mini- BAL for pcp (LDH elevated)
   - CTA for PE
   - CXR today to eval
   - continue on vent
   .
   4.  Metastatic breast cancer:  Per OMR notes, pt is full code,
   requesting chemotherapy, whole brain radiation.
   - Weekly Navelbine
   - Pain control with Fentanyl currently
   - Continue care per oncology
   .
   5. Sinus Tach:  HR in 120s on the floor as well.  Likely [**1-23**] tumor
   burden +/- pain. IVF hydration to see if fluid responsive.
   - 500 cc bolus
   - CTA for PE
   - monitor on tele
   .
   6. Transaminitis: Stable, slightly down from previous admission, likely
   from known liver mets.
   - Will cont. to monitor LFTs
   .
   7.  Hypertension:
   - Hold home metoprolol as mildy hypotensive, likely [**1-23**] to sedation.
   ICU Care
   Lines:
   20 Gauge - [**2186-5-26**] 04:05 AM
   Arterial Line - [**2186-5-26**] 05:19 AM
   22 Gauge - [**2186-5-26**] 06:18 AM
   Nutrition: start tube feeds once CXR confirms NGT placement
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed
   Code status: Full code